*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1210POC-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1210POC-222_freq port1 port2 PARAMS: Cpar=0.2pF Ind=2uH
X1 port1 port2 Model1A PARAMS:
+ R1=40
+ R2=0.12
+ C= {Cpar}
+ K1=0.00000227
+ K2=0.132
+ K3= {Ind}
+ K4=0.07
+ K5=3.75E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2164.28369
.ends 1210POC-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1210POC-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1210POC-222_imp port1 port2 PARAMS: Cpar=0.168pF Ind=2uH
X1 port1 port2 Model1D PARAMS:
+ R1=40
+ R2=0.12
+ C= {Cpar}
+ K1=0.00000227
+ K2=0.132
+ K3= {Ind}
+ K4=0.07
+ K5=3.75E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2164.28369
.ends 1210POC-222_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1210POC-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1210POC-472_freq port1 port2 PARAMS: Cpar=0.31pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=30
+ R2=0.16
+ C= {Cpar}
+ K1=0.00000312
+ K2=0.4
+ K3= {Ind}
+ K4=0.201
+ K5=3.65E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4627.88231
.ends 1210POC-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1210POC-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1210POC-472_imp port1 port2 PARAMS: Cpar=0.289pF Ind=4.7uH
X1 port1 port2 Model1D PARAMS:
+ R1=30
+ R2=0.16
+ C= {Cpar}
+ K1=0.00000312
+ K2=0.4
+ K3= {Ind}
+ K4=0.201
+ K5=3.65E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=4627.88231
.ends 1210POC-472_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1210POC-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1210POC-682_freq port1 port2 PARAMS: Cpar=0.268pF Ind=7uH
X1 port1 port2 Model1A PARAMS:
+ R1=30
+ R2=0.2
+ C= {Cpar}
+ K1=0.00000562
+ K2=0.695
+ K3= {Ind}
+ K4=0.207
+ K5=5.65E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7530.26593
.ends 1210POC-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1210POC-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1210POC-682_imp port1 port2 PARAMS: Cpar=0.253pF Ind=7uH
X1 port1 port2 Model1D PARAMS:
+ R1=30
+ R2=0.2
+ C= {Cpar}
+ K1=0.00000562
+ K2=0.695
+ K3= {Ind}
+ K4=0.207
+ K5=5.65E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7530.26593
.ends 1210POC-682_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1210POC-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1210POC-103_freq port1 port2 PARAMS: Cpar=0.255pF Ind=11uH
X1 port1 port2 Model1A PARAMS:
+ R1=20
+ R2=0.29
+ C= {Cpar}
+ K1=1.05E-09
+ K2=1.026
+ K3= {Ind}
+ K4=0.17
+ K5=5.38E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10018.1041
.ends 1210POC-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1210POC-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1210POC-103_imp port1 port2 PARAMS: Cpar=0.249pF Ind=11uH
X1 port1 port2 Model1D PARAMS:
+ R1=20
+ R2=0.29
+ C= {Cpar}
+ K1=1.05E-09
+ K2=1.026
+ K3= {Ind}
+ K4=0.17
+ K5=5.38E-08
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10018.1041
.ends 1210POC-103_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1210POC-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1210POC-153_freq port1 port2 PARAMS: Cpar=0.29pF Ind=16uH
X1 port1 port2 Model1A PARAMS:
+ R1=25
+ R2=0.45
+ C= {Cpar}
+ K1=0.000001
+ K2=1.65
+ K3= {Ind}
+ K4=0.0506
+ K5=0.539
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14288.0218
.ends 1210POC-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1210POC-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1210POC-153_imp port1 port2 PARAMS: Cpar=0.274pF Ind=16uH
X1 port1 port2 Model1D PARAMS:
+ R1=25
+ R2=0.45
+ C= {Cpar}
+ K1=0.000001
+ K2=1.65
+ K3= {Ind}
+ K4=0.0506
+ K5=0.539
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=14288.0218
.ends 1210POC-153_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1210POC-183
* Inductance = 18uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1210POC-183_freq port1 port2 PARAMS: Cpar=0.23pF Ind=19uH
X1 port1 port2 Model1A PARAMS:
+ R1=28
+ R2=0.8
+ C= {Cpar}
+ K1=0.000001
+ K2=1.85
+ K3= {Ind}
+ K4=0.00323
+ K5=0.463
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16066.6421
.ends 1210POC-183_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1210POC-183
* Inductance = 18uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1210POC-183_imp port1 port2 PARAMS: Cpar=0.229pF Ind=19uH
X1 port1 port2 Model1D PARAMS:
+ R1=28
+ R2=0.8
+ C= {Cpar}
+ K1=0.000001
+ K2=1.85
+ K3= {Ind}
+ K4=0.00323
+ K5=0.463
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=16066.6421
.ends 1210POC-183_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1210POC-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt 1210POC-223_freq port1 port2 PARAMS: Cpar=0.263pF Ind=22uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.76
+ C= {Cpar}
+ K1=0.000399
+ K2=2.274
+ K3= {Ind}
+ K4=0.507
+ K5=3.61E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18611.2077
.ends 1210POC-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : 1210POC-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.0001GHz-10GHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt 1210POC-223_imp port1 port2 PARAMS: Cpar=0.244pF Ind=22uH
X1 port1 port2 Model1D PARAMS:
+ R1=50
+ R2=0.76
+ C= {Cpar}
+ K1=0.000399
+ K2=2.274
+ K3= {Ind}
+ K4=0.507
+ K5=3.61E-07
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=18611.2077
.ends 1210POC-223_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Impedance Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Time Domain Inductor Impedance Model
*======================================================================
.subckt Model1D Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K3=1
+ PkZ=1
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout {K3}
.ends Model1D

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
